US06627651B1
A solution of 4-nitrobenzylamine (5.24 g, 34.4 mmol) and S-methyl-N,N′-bis(tert-butoxycarbonyl)isothiourea (5.00 g, 17.2 mmol) in THF (60 ml) was stirred at 55° C. for 9 hours and at room temperature for 11 hours. The reaction mixture was concentrated under reduced pressure, was then mixed with ethyl acetate (150 ml) and was washed with 1 N hydrochloric acid (30 ml×3) and an aqueous saturated solution of sodium chloride (30 ml) in the order. The organic layer was dried with anhydrous magnesium sulfate and was then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel, 150 g: ethyl acetate/hexane 1/9→1/6). The objective fractions were concentrated under reduced pressure, diisopropyl ether was added to the residue and an insoluble material was collected by filtration. The insoluble material was washed with diisopropyl ether and was then dried under reduced pressure to obtain N-(4-nitrobenzyl)-N′,N″-bis(tert-butoxycarbonyl)guanidine (5.67 g, 14.4 mmol, 83%)

reactant | 4-nitrobenzylamine | 34.4 mmol, 5.24 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
reactant | S-methyl-N,N′-bis(tert-butoxycarbonyl)isothiourea | 17.2 mmol, 5.00 g | CSC(NC(=O)OC(C)(C)C)=NC(=O)OC(C)(C)C | C12H22N2O4S
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | N-(4-nitrobenzyl)-N′,N″-bis(tert-butoxycarbonyl)guanidine | 14.4 mmol, 5.67 g, 83% | [N+](=O)([O-])C1=CC=C(CNC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C=C1 | C18H26N4O6
